US09403846B2
Step 3. Synthesis of (4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(5,5-dimethyltetrahydrofuran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine (19)
Methylamine (8.0 M in ethanol, 500 μL, 4.0 mmol) was added to a solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(5, 5-dimethyltetrahydrofuran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C78) (30 mg, 0.062 mmol) in ethanol (500 μL). The reaction mixture was stirred at room temperature overnight. The mixture was concentrated to an oil and combined with material derived from a reaction run on 0.01 mmol in a similar manner. Purification via silica gel chromatography (Gradient: 0% to 15% methanol in dichloromethane) afforded the product as a white solid. By 1H NMR analysis, this product was a single diastereomer. Yield: 19.9 mg, 72%. LCMS m/z 383.2 [M+H+]. 1H NMR (400 MHz, CD3OD) δ 7.31-7.37 (m, 1H), 6.93-7.00 (m, 2H), 4.06 (dd, J=10.9, 2.0 Hz, 1H), 3.89 (ap. q, J=6.6 Hz, 1H), 3.69 (d, J=11.3 Hz, 1H), 3.49-3.54 (m, 1H), 2.86-2.91 (m, 2H), 2.66-2.70 (m, 1H), 1.99-2.09 (m, 2H), 1.65-1.78 (m, 4H), 1.26 (s, 3H), 1.23 (s, 3H).

reactant | Methylamine | 4.0 mmol, 8.0 M, 500 μL | CN | CH5N
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(5, 5-dimethyltetrahydrofuran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 0.062 mmol, 30 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C2OC(CC2)(C)C)NC(C2=CC=CC=C2)=O | C26H28F2N2O3S
solvent | ethanol | 500 μL | C(C)O | C2H6O
product | (4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(5,5-dimethyltetrahydrofuran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C2OC(CC2)(C)C)N | C19H24F2N2O2S
